US05571825
A solution of 4,4'-dimethoxybenzhydrol (Aldrich) (300 mg, 1.23 mmol) and methyl thioglycolate (123 mg, 1.35 mmol) in 6 mL of 10% methanolic HCl is heated at reflux for 45 minutes. The reaction is cooled to room temperature, diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, brine and dried over magnesium sulfate. The product is concentrated in vacuo to give methyl [[bis-(4-methoxyphenyl)methyl]thio]acetate as a colorless oil in 73% yield.

reactant | 4,4'-dimethoxybenzhydrol | 1.23 mmol, 300 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)O)C=C1 | C15H16O3
reactant | methyl thioglycolate | 1.35 mmol, 123 mg | C(CS)(=O)OC | C3H6O2S
solvent | HCl | 6 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl [[bis-(4-methoxyphenyl)methyl]thio]acetate | 73% yield | COC1=CC=C(C=C1)C(SCC(=O)OC)C1=CC=C(C=C1)OC | C18H20O4S
